US07491718B2
methyl 2-({[2-(methoxycarbonyl)phenyl]sulfonyl}amino)-1-naphthoate
A solution of 133A (0.50 g, 2.48 mmol) in dichloromethane (8.0 mL) was treated with chlorotrimethylsilane (3.0 mL of 1M solution in CH2Cl2, 2.98 mmol) and pyridine (8.0 mL), stirred at room temperature for 1 hour, treated with methyl 2-(chlorosulfonyl)benzoate (0.873 g, 3.72 mmol), stirred overnight at room temperature treated with 1N HCl (20 mL), and extracted with dichloromethane (2×). The combined organic phases were dried (MgSO4), filtered, and concentrated. The resulting residue was purified by preparative HPLC to provide the desired product. MS (ESI(+)) m/e 400 (M+H)+; (ESI(−)) m/e 398 (M−H)−; 1H NMR (300 MHz, DMSO-d6) δ 9.67 (s, 1H), 8.04 (d, 1H), 7.95 (d, 1H), 7.85 (d, 7.90, 1H), 7.80 (d, 1H), 7.72 (m, 2H), 7.65 (ddd, 1H), 7.56 (m, 2H), 7.50 (d, 1H), 3.80 (s, 3H), 3.78 (s, 3H).

reactant | chlorotrimethylsilane | 2.98 mmol, 1M, 3.0 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | pyridine | 8.0 mL | N1=CC=CC=C1 | C5H5N
reactant | methyl 2-(chlorosulfonyl)benzoate | 3.72 mmol, 0.873 g | ClS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C8H7ClO4S
reactant | HCl | 1N, 20 mL | Cl | ClH
solvent | dichloromethane | 8.0 mL | ClCCl | CH2Cl2
product | methyl 2-({[2-(methoxycarbonyl)phenyl]sulfonyl}amino)-1-naphthoate | COC(=O)C1=C(C=CC=C1)S(=O)(=O)NC1=C(C2=CC=CC=C2C=C1)C(=O)OC | C20H17NO6S
